US06090836
Using the procedure in Example 51, step 1, 3,3-dimethylbutyric acid and 2-(n-propyl)resorcinol were condensed in triflic acid to form 1,3-dihydroxy-4-(3,3-dimethylbutyryl)-2-(n-propyl)benzene

reactant | 3,3-dimethylbutyric acid | CC(CC(=O)O)(C)C | C6H12O2
reactant | 2-(n-propyl)resorcinol | C(CC)C1=C(O)C=CC=C1O | C9H12O2
solvent | triflic acid | OS(=O)(=O)C(F)(F)F | CHF3O3S
product | 1,3-dihydroxy-4-(3,3-dimethylbutyryl)-2-(n-propyl)benzene | OC1=C(C(=C(C=C1)C(CC(C)(C)C)=O)O)CCC | C15H22O3
